US05763450
3.19 g of furan-2-carboxylic acid (3-iodo-phenyl)-amide (Example 13bf)) are dissolved in 25 ml of methylene chloride with 2.78 ml of triethylamine and 100 mg of 4-dimethylaminopyridine. 1.60 g of cyclopropanecarbonyl chloride are added thereto and the mixture is stirred at room temperature for 5 hrs. The mixture is concentrated, poured into water and extracted three times with ethyl acetate. Chromatography on silica gel with ethyl acetate/hexane 3:7 gives 1.56 g of cyclopropanecarboxylic acid (furan-2-carbonyl)-(3-iodo-phenyl)-amide as a colourless solid. Yield: 58%. Mass spectrum: peaks inter alia at m/e: 381 (20%), 353 (28%), 313 (86%), 95 (75%), 69 (100%).

reactant | furan-2-carboxylic acid (3-iodo-phenyl)-amide | 3.19 g | IC=1C=C(C=CC1)NC(=O)C=1OC=CC1 | C11H8INO2
reactant | triethylamine | 2.78 ml | C(C)N(CC)CC | C6H15N
reactant | cyclopropanecarbonyl chloride | 1.60 g | C1(CC1)C(=O)Cl | C4H5ClO
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 100 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | cyclopropanecarboxylic acid (furan-2-carbonyl)-(3-iodo-phenyl)-amide | 1.56 g, Yield: 58% | O1C(=CC=C1)C(=O)N(C(=O)C1CC1)C1=CC(=CC=C1)I | C15H12INO3
